Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dilantin / heparin
 
Attending: ___
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ gentleman with history of seizures
secondary to TBI (___), on Keppra and Depakote, presenting as a
transfer from ___ for status epilepticus requiring
multiple AEDs for resolution. 

History is obtained from his wife and from ___ records from
___. 

He was in his USOH earlier in the evening of presentation,
sitting in a chair in the apartment with some friends, when he
began seizing. Seizure description is somewhat unclear and
variably includes generalized, rhythmic 4-extremity shaking as
well as intermittent responsiveness throughout the event. This
lasted about 10 min until EMS arrived, and stopped after 2 doses
of intranasal midazolam and IV versed. By EMS report, he stopped
seizing and was briefly able to follow commands before he had
another seizure and arrived to the ___ still seizing. At
at least some point, seizure was described as twitching of only
left face and mouth. No urinary or fecal incontinence.He had one
more seizure in the ___ and between these last two episodes
required a total of 6mg Ativan IV and 300mg Ketamine to stop the
seizure activity.  He also received Keppra IV 1750mg (converted
from home PO dose). He then became somnolent and was transferred
to ___ ___ for further management. CXR was done prior to
transfer and concerning for RLL infiltrate, for which he was
given doses of cipro and flagyl for empiric aspiration pneumonia
coverage.

Per wife, he has not been ill recently and she does not think he
has missed any medication doses. No recent dose changes or new
medications. 

Seizure history, per his wife: onset of seizures following TBI 
in
___. Semiology varies in her description but include GTC,
rhythmic R-sided shaking, and episodes with maintained 
awareness.
Last seizure prior to this presentation was ___, and prior 
to
that in ___. 

Review of systems is positive for the symptoms listed above;
negative for all other systems. 

 
Past Medical History:
Post-traumatic epilepsy
TBI - resultant R leg atrophy but no motor deficits.    
Memory impairment post TBI
Torn meniscus and AVN of R knee
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission:
==============
General: Somnolent, arouses briefly to sternal rub
 HEENT: NC/AT, no scleral icterus noted, MMM. Nasal trumpet in
place
 Pulmonary: Breath sounds equal bilaterally (limited by body
habitus)
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

 Neurologic:
 -Mental Status: Somnolent but arouses to sternal rub and
eventually briefly opens eyes to command. Follows commands to
stick out tongue, open eyes, raise arms. 
 -Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI grossly full to
observation. Face symmetric at rest and with activation. Hearing
intact to conversation bilaterally. Tongue protrudes midline. 
 -Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Moves all extremities strongly and equally
antigravity. 
 -Sensory: Responds/withdraws to nailbed pressure in all
extremities.
 -DTRs:
   Bi  ___ Pat Ach
 L  2    2    2   1
 R  3    2    3   2
 -Coordination/Gait: unable to assess

On Discharge:
==============
MS: alert and oriented x4, follows commands. Normal speech and 
content.
-Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI grossly full to
observation. Slight right sided ptosis, otherwise face symmetric 
and equal with activation. Hearing intact to conversation 
bilaterally. Tongue protrudes midline. 
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Strength full in left upper and lower extremity. 
Slight weakness in right upper extremity and right lower 
extremity exam limited secondary to pain from knee. At least 
antigravity.
-Sensory: Intact to light touch throughout
-DTRs:
   Bi  ___ Pat Ach
 L  2    2    2   1
 R  3    2    3   2
Gait: antalgic
 
Pertinent Results:
Labs:
========
___ 05:30AM BLOOD WBC-8.1 RBC-4.33* Hgb-13.1* Hct-38.4* 
MCV-89 MCH-30.3 MCHC-34.1 RDW-12.7 RDWSD-41.6 Plt ___
___ 10:20PM BLOOD Neuts-65.8 ___ Monos-9.7 Eos-0.3* 
Baso-0.4 Im ___ AbsNeut-5.88 AbsLymp-2.11 AbsMono-0.87* 
AbsEos-0.03* AbsBaso-0.04
___ 05:30AM BLOOD Glucose-89 UreaN-12 Creat-1.1 Na-143 
K-4.3 Cl-104 HCO3-27 AnGap-12
___ 10:20PM BLOOD ALT-19 AST-20 AlkPhos-71 TotBili-0.3
___ 05:30AM BLOOD Ammonia-<10
___ 05:30AM BLOOD Valproa-71
___ 10:20PM BLOOD Valproa-36*

Imaging:
=================
___ XR Right knee:
IMPRESSION: No acute fracture or dislocation.  Mild degenerative 
changes of the right knee.  No effusion.

___ CXR: No acute intrathoracic process

PENDING: Final EEG read
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with epilepsy secondary to a TBI with 
chronic
cognitive impairment and R hemiparesis, who presented from an 
OSH with convulsive status epilepticus.  He then had multiple 
GTC and required large doses of benzodiazepines by EMS and OSH 
___ but did not require intubation. His labs were notable for VPA 
level of 36. Non con CTH showed bifrontal encephalomalacia but 
no acute process. Patient reports compliance with home AED 
regimen, no recent medication changes, illnesses, or weight 
gain. Toxic, infectious, and metabolic workup unremarkable in 
our hospital, although he did receive one dose of Cipro/flagyl 
at OSH for concern for PNA. Reports poor sleep and high stress 
secondary to a right knee meniscal tear. 

Overall, his convulsive status epilepticus was likely triggered 
by subtherapeutic VPA level, with possible contribution from 
lack of sleep if this was impacted by his significant pain and 
stress. He received a 20 mg/kg VPA load and his home VPA  level 
was increased. EEG showed rare right frontotemporal epileptiform
discharges consistent with focal cortical hyperexcitability, and
intermittent delta slowing on the right, consistent with focal
dysfunction. There are no electrographic seizures. Day of 
discharge patient said he felt almost back to his baseline, wife 
confirms.

#Neurology
- Increase valproic acid to ___ mg qAM, 500 mg qafternoon, 750 
mg qPM (previously ___
- Continue Keppra 1750mg BID
- Follow up with your neurologist within ___ weeks

#Right Knee Meniscal Tear
- Has follow up next week as outpatient
- Lidocaine patch prn

===================================
TRANSITIONAL ISSUES:
[] Follow up with outside neurologist within 2 weeks
[] Your valproic acid dose has been increased to 750 mg qAM, 500 
mg qafternoon, 750 mg qPM
[] Valproic acid level within 1 week. Outside neurologist to 
follow this result
[] Follow up with PCP scheduled for next week for right knee 
meniscal tear
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valproic Acid ___ mg PO Q8H 
2. Valproic Acid ___ mg PO QHS 
3. LevETIRAcetam 1750 mg PO BID 
4. PARoxetine 40 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Divalproex Sod. Sprinkles 250 mg PO BID 
every AM and ___ to make total AM and ___ dose of 750 mg each.  
2.  Lidocaine 5% Patch 1 PTCH TD DAILY:PRN right knee pain 
RX *lidocaine [Lidocaine Pain Relief] 4 % apply to right knee 
daily Disp #*30 Patch Refills:*0 
3.  LevETIRAcetam 1750 mg PO BID  
4.  PARoxetine 40 mg PO DAILY  
5.  Tamsulosin 0.4 mg PO QHS  
6.  Valproic Acid ___ mg PO Q8H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred from an outside hospital for concern for 
nonconvulsive status epilepticus. On arrival, you were sleepy 
but more alert than at the other hospital, and able to provide a 
history. You were given a loading dose of valproic acid as your 
level was too low at 36. Your daily valproic dose was also 
increased. Imaging of your head showed no acute processes and 
cvEEG did not indicate that you were in nonconvulsive status. A 
toxic, infectious, and metabolic workup showed no additional 
triggers for your seizure.

Overall, your convulsive status epilepticus was likely triggered 
by subtherapeutic valproic level with possible contribution from 
lack of sleep as well as significant pain and stress from your 
torn meniscus.

On discharge, the following change will be made to your 
medication:
- Increase your AM dose of valproic acid. Your new schedule is 
valproic acid ___ qAM, 500 mg qafternoon, and 750mg at night.

All other medications should stay the same.

Please follow up with your neurologist and PCP as below. You 
will need blood work for a valproic acid level within 1 week of 
hospital discharge, which your neurologist should follow up.

It was a pleasure taking care of you!

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___